US07435837B2
(±)-N-{[7-(2,6-dichlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}cyclobutanamine
The title compound was prepared (0.074 g, 61%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-([5-fluoro-7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.14 g, 0.30 mmol) and cyclobutylamine (0.21 g, 3.0 mmol). mp 128-130° C.

reactant | [5-fluoro-7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.30 mmol, 0.14 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2Cl)Cl)F | C22H17Cl2FO4S
reactant | cyclobutylamine | 3.0 mmol, 0.21 g | C1(CCC1)N | C4H9N
product | (±)-N-{[7-(2,6-dichlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}cyclobutanamine | ClC1=C(C(=CC=C1)Cl)C1=CC(=CC=2CC(OC21)CNC2CCC2)F | C19H18Cl2FNO
